.SUBCKT 2N7000 1 2 3
Cgs  2 3 12.3E-12
Cgd1 2 4 27.4E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1 W=9.7m L=2u
M2 4 2 1 3 MOST2 W=9.7m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.78u W=9.7m L=2u Rs=20m Vto=2 Rd=1.186)
.MODEL MOST2 NMOS(VTO=-4.73 Kp=20.78u W=9.7m L=2u Rs=20m)
.MODEL Dbody D(Is=125f N=1.023 Rs=1.281 Ikf=18.01 Cjo=46.3p M=.3423
+            Vj=.4519 Bv=60 Ibv=10u Tt=161.6n)
.ENDS
.SUBCKT 2N7002 1 2 3
Cgs  2 3 12.3E-12
Cgd1 2 4 27.4E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1 W=9.7m L=2u
M2 4 2 1 3 MOST2 W=9.7m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.78u W=9.7m L=2u Rs=20m Vto=2 Rd=1.186)
.MODEL MOST2 NMOS(VTO=-4.73 Kp=20.78u W=9.7m L=2u Rs=20m)
.MODEL Dbody D(Is=125f N=1.023 Rs=1.281 Ikf=18.01 Cjo=46.3p M=.3423
+            Vj=.4519 Bv=60 Ibv=10u Tt=161.6n)
.ENDS
.SUBCKT bsd214 10 20 30
M1 10 20 30 NMOS W=540u L=2u
.MODEL NMOS NMOS
+                    Vmax=0 Xj=0 Tox=100n Uo=600 Phi=.6 Kp=20.85u
+                    W=540u L=2u Rs=20m Vto=.95 Rd=10.33 Rds=20G
+                    Cbd=5.352p Pb=.8 Mj=.5 Fc=.5 Cgso=1.2p Cgdo=5.1p
+                    Rg=0 Is=1.186u N=3.443 Rb=232.8)
.ENDS
.SUBCKT bsd215 10 20 30
M1 10 20 30 NMOS W=540u L=2u
.MODEL NMOS NMOS 
+               Xj=0 Tox=100n Uo=600 Phi=.6 Kp=20.85u W=540u L=2u Rs=20m
+               Vto=.95 Rd=25 Rds=20n Cbd=5.352p Pb=.8 Mj=.5 Fc=.5 Cgso=1.2p
+               Cgdo=1.2p Rg=0 Is=124.9p N=1.189 Rb=366.6)
.ENDS
.SUBCKT BSN10 1 2 3
Cgs  2 3 6E-12
Cgd1 2 4 16.5E-12
Cgd2 1 4 2E-12
M1 1 2 3 3 MOST1 W=3.1m L=2u
M2 4 2 1 3 MOST2 W=3.1m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.71u W=3.1m L=2u Rs=20m Vto=1 Rd=3.231)
.MODEL MOST2 NMOS(VTO=-5 Kp=20.71u W=3.1m L=2u Rs=20m)
.MODEL Dbody D(Is=56.31f N=1.084 Rs=467m Cjo=19.08p M=357.6m Vj=407.9m
+            Bv=50 Ibv=10u Tt=100n)
.ENDS
.SUBCKT BSN10A 1 2 3
Cgs  2 3 6E-12
Cgd1 2 4 16.5E-12
Cgd2 1 4 2E-12
M1 1 2 3 3 MOST1 W=3.1m L=2u
M2 4 2 1 3 MOST2 W=3.1m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.71u W=3.1m L=2u Rs=20m Vto=1 Rd=3.231)
.MODEL MOST2 NMOS(VTO=-5 Kp=20.71u W=3.1m L=2u Rs=20m)
.MODEL Dbody D(Is=56.31f N=1.084 Rs=467m Cjo=19.08p M=357.6m Vj=407.9m
+            Bv=50 Ibv=10u Tt=100n)
.ENDS
.SUBCKT BSN20 1 2 3
Cgs  2 3 6E-12
Cgd1 2 4 16.5E-12
Cgd2 1 4 2E-12
M1 1 2 3 3 MOST1 W=3.1m L=2u
M2 4 2 1 3 MOST2 W=3.1m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.71u W=3.1m L=2u Rs=20m Vto=1 Rd=3.231)
.MODEL MOST2 NMOS(VTO=-5 Kp=20.71u W=3.1m L=2u Rs=20m)
.MODEL Dbody D(Is=56.31f N=1.084 Rs=467m Cjo=19.08p M=357.6m Vj=407.9m
+            Bv=50 Ibv=10u Tt=100n)
.ENDS
.SUBCKT BSN304 1 2 3
Cgs  2 3 40.5E-12
Cgd1 2 4 135.8E-12
Cgd2 1 4 2.6E-12
M1 1 2 3 3 MOST1 W=28E-3 L=2E-6
M2 4 2 1 3 MOST2 W=28E-3 L=2E-6
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.95E-6 W=28E-3 L=2E-6 Rs=20E-3 Vto=1.5 Rd=6.276)
.MODEL MOST2 NMOS(Vto=-3.8 Kp=20.95E-6 W=28E-3 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=7.368E-12 N=1.072 Rs=.8316 Ikf=0 Cjo=150.3E-12 M=.5682
+              Vj=.3644 Bv=300 Ibv=10E-6 Tt=432.8E-9)
.ENDS
.SUBCKT BSN304A 1 2 3
Cgs  2 3 40.5E-12
Cgd1 2 4 135.8E-12
Cgd2 1 4 2.6E-12
M1 1 2 3 3 MOST1 W=28E-3 L=2E-6
M2 4 2 1 3 MOST2 W=28E-3 L=2E-6
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.95E-6 W=28E-3 L=2E-6 Rs=20E-3 Vto=1.5 Rd=6.276)
.MODEL MOST2 NMOS(Vto=-3.8 Kp=20.95E-6 W=28E-3 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=7.368E-12 N=1.072 Rs=.8316 Ikf=0 Cjo=150.3E-12 M=.5682
+              Vj=.3644 Bv=300 Ibv=10E-6 Tt=432.8E-9)
.ENDS
.SUBCKT BSP100 1 2 3
Cgs  2 3 190E-12
Cgd1 2 4 409E-12
Cgd2 1 4 50E-12
M1 1 2 3 3 MOST1 W=.54 L=2E-6
M2 4 2 1 3 MOST2 W=.54 L=2E-6
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.58E-6 W=.54 L=2E-6 Rs=20E-3 Vto=2.2 Rd=56E-3)
.MODEL MOST2 NMOS(Vto=-3.9 Kp=20.58E-6 W=.54 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=258E-15 N=1.002 Rs=.1773 Ikf=10.49 Cjo=623.5E-12 M=471.8E-3
+              Vj=705.5E-3 Bv=30 Ibv=10E-6 Tt=80E-9)
.ENDS
.SUBCKT BSP130 1 2 3
Cgs  2 3 40.5E-12
Cgd1 2 4 135.8E-12
Cgd2 1 4 2.6E-12
M1 1 2 3 3 MOST1 W=28E-3 L=2E-6
M2 4 2 1 3 MOST2 W=28E-3 L=2E-6
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.95E-6 W=28E-3 L=2E-6 Rs=20E-3 Vto=1.5 Rd=6.276)
.MODEL MOST2 NMOS(Vto=-3.8 Kp=20.95E-6 W=28E-3 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=7.368E-12 N=1.072 Rs=.8316 Ikf=0 Cjo=150.3E-12 M=.5682
+              Vj=.3644 Bv=300 Ibv=10E-6 Tt=432.8E-9)
.ENDS
.SUBCKT BSS100 1 2 3
Cgs  2 3 18.8E-12
Cgd1 2 4 57.7E-12
Cgd2 1 4 4E-12
M1 1 2 3 3 MOST1 W=7.9m L=2u
M2 4 2 1 3 MOST2 W=7.9m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.79u W=7.9m L=2u Rs=20m Vto=1.6 Rd=1.515)
.MODEL MOST2 NMOS(VTO=-4.64 Kp=20.79u W=7.9m L=2u Rs=20m)
.MODEL Dbody D(Is=192.2f N=1.052 Rs=318.2m Cjo=72.35p M=422.8m Vj=494.8m
+            Bv=100 Ibv=10u Tt=140n)
.ENDS
.SUBCKT BSS123 1 2 3
Cgs  2 3 18.8E-12
Cgd1 2 4 57.7E-12
Cgd2 1 4 4E-12
M1 1 2 3 3 MOST1 W=7.9m L=2u
M2 4 2 1 3 MOST2 W=7.9m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.79u W=7.9m L=2u Rs=20m Vto=1.6 Rd=1.515)
.MODEL MOST2 NMOS(VTO=-4.64 Kp=20.79u W=7.9m L=2u Rs=20m)
.MODEL Dbody D(Is=192.2f N=1.052 Rs=318.2m Cjo=72.35p M=422.8m Vj=494.8m
+            Bv=100 Ibv=10u Tt=140n)
.ENDS
.SUBCKT bss83 10 20 30
M1 10 20 30 NMOS W=1E-3 L=1E-6
.MODEL NMOS NMOS
+ LEVEL=3
+ W=1E-3
+ L=1E-6
+ VTO=2
+ VMAX=1E6
+ RS=3
+ RD=3
+ CJ=0.001396
+ MJ=0.3936
+ THETA=1E-6
+ ETA=0.009307
+ KAPPA=2.226
.ENDS
.SUBCKT PHC21025N 1 2 3
Cgs  2 3 190E-12
Cgd1 2 4 409E-12
Cgd2 1 4 50E-12
M1 1 2 3 3 MOST1 W=.54 L=2E-6
M2 4 2 1 3 MOST2 W=.54 L=2E-6
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.58E-6 W=.54 L=2E-6 Rs=20E-3 Vto=2.2 Rd=56E-3)
.MODEL MOST2 NMOS(Vto=-3.9 Kp=20.58E-6 W=.54 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=258E-15 N=1.002 Rs=.1773 Ikf=10.49 Cjo=623.5E-12 M=471.8E-3
+              Vj=705.5E-3 Bv=30 Ibv=10E-6 Tt=80E-9)
.ENDS
.SUBCKT PHN110 1 2 3
Cgs  2 3 190E-12
Cgd1 2 4 409E-12
Cgd2 1 4 50E-12
M1 1 2 3 3 MOST1 W=.54 L=2E-6
M2 4 2 1 3 MOST2 W=.54 L=2E-6
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.58E-6 W=.54 L=2E-6 Rs=20E-3 Vto=2.2 Rd=56E-3)
.MODEL MOST2 NMOS(Vto=-3.9 Kp=20.58E-6 W=.54 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=258E-15 N=1.002 Rs=.1773 Ikf=10.49 Cjo=623.5E-12 M=471.8E-3
+              Vj=705.5E-3 Bv=30 Ibv=10E-6 Tt=80E-9)
.ENDS
.SUBCKT PMBF170 1 2 3
Cgs  2 3 12.3E-12
Cgd1 2 4 27.4E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1 W=9.7m L=2u
M2 4 2 1 3 MOST2 W=9.7m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.78u W=9.7m L=2u Rs=20m Vto=2 Rd=1.186)
.MODEL MOST2 NMOS(VTO=-4.73 Kp=20.78u W=9.7m L=2u Rs=20m)
.MODEL Dbody D(Is=125f N=1.023 Rs=1.281 Ikf=18.01 Cjo=46.3p M=.3423
+            Vj=.4519 Bv=60 Ibv=10u Tt=161.6n)
.ENDS
